data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_592724_0,[C:1](\[N:3]([H:9])[H:12])(=[C:4](/[C:6]([N:2]([H:10])[H:11])(/[C:5](=[N:7]/[H:13])[H:15])[H:16])[H:14])[H:8]>>[C:1]([N:2]([H:10])[H:11])([N:3]([H:9])[H:12])(/[C:4](=[C:6]([C:5](=[N:7]/[H:13])/[H:15])\[H:16])[H:14])[H:8],57.03535749999631
MR_74579_1,[C:1]([C@@:3]1([H:11])[C:2]([C:7]([H:20])([H:21])[H:22])([C:8]([H:23])([H:24])[H:25])[C:4]1([H:12])[H:13])([C:5]([H:14])([H:16])[H:17])([C:6]([H:15])([H:18])[H:19])[O:9][H:10]>>[C:1](=[C:3]([C:4]([C:2]([C:7]([H:20])([H:21])[H:22])([C:8]([H:23])([H:24])[H:25])[O:9][H:10])([H:12])[H:13])[H:11])([C:5]([H:14])([H:16])[H:17])[C:6]([H:15])([H:18])[H:19],72.06210000000951
MR_656935_2,[C:1](/[C:3](=[C:4](/[C:2]([H:12])([H:13])[H:14])[N:7]=[C:5]([H:15])[H:16])[O:6][H:8])([H:9])([H:10])[H:11]>>[C:1]([C:3]1([O:6][H:8])[C:4]([C:2]([H:12])([H:13])[H:14])=[N:7][C:5]1([H:15])[H:16])([H:9])([H:10])[H:11],39.47602499999249
MR_529152_1,[C:1](=[C:3](\[C:2]([O:7][H:10])([H:12])[H:13])[C:5]([N:8]=[C:4]([H:14])[H:15])([H:16])[H:17])(\[O:6][H:9])[H:11]>>[C:1]([C:3]([C:2]([O:7][H:10])([H:12])[H:13])=[C:5]([H:16])[H:17])([O:6][H:9])([N:8]=[C:4]([H:14])[H:15])[H:11],51.83651999999583
MR_325862_0,[C:1](\[C:3]([H:14])([H:15])[H:16])(=[C:5](/[C:4]([N:6]([H:10])[H:11])=[O:8])[N:7]=[C:2]([H:12])[H:13])[H:9]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:2]([H:12])([H:13])[N:7]=[C:5]1[C:4]([N:6]([H:10])[H:11])=[O:8],44.086894999979336
MR_298542_1,[N:1](=[C:4](/[C:3]([C:2](=[O:6])[H:9])([O:5][H:7])[H:10])[H:11])\[H:8]>>[N:1]([C:2](=[O:6])[H:9])(/[C:4](=[C:3](/[O:5][H:7])[H:10])[H:11])[H:8],53.60293250003039
MR_134510_0,[C:1]([C:4]([C:6]([C:3]([H:16])([H:17])[H:18])[C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])[O:7][H:9])([H:10])([H:11])[H:12]>>[C:1]([C@:4]1([O:7][H:9])[C:6]([C:3]([H:16])([H:17])[H:18])=[C:5]([C:2]([H:13])([H:14])[H:15])[O:8]1)([H:10])([H:11])[H:12],39.242594999975466
MR_36957_0,[C:1](/[N:6]=[C:5](\[N:2]([C:3]([C:4](=[O:8])[H:10])=[O:7])[H:9])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:6]([C:4](=[O:8])[H:10])[C:5]1([H:11])[N:2]([H:9])[C:3]1=[O:7])([H:12])([H:13])[H:14],68.75768500000575
MR_646190_1,[C:1]([C:2]([N:6]([H:12])[H:13])([N:7]([H:10])[H:11])[H:9])([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:8][C:3]([H:14])([H:15])[H:16]>>[C:1]([C:2]([N:7]([H:10])[H:11])([O:8][C:3]([H:14])([H:15])[H:16])[H:9])([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[N:6]([H:12])[H:13],66.45601500000282
MR_483411_0,[C:1]([C:6]([C:2]([H:14])([H:15])[H:16])=[N:9][C:5](=[C:7]([C:3]([H:18])([H:19])[H:20])[C:4]([H:21])([H:22])[H:23])[N:8]([H:10])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:6]1([C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])[C:5]([N:8]([H:10])[H:11])=[N:9]1)([H:12])([H:13])[H:17],36.49288999999797
MR_319004_0,[C:1]([C:3](/[C:4]([C:2]([H:16])([H:17])[H:18])=[C:6](/[N:5]([H:10])[H:11])[H:12])=[N:8]/[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([C:3]1=[C:4]([C:2]([H:16])([H:17])[H:18])[C@:6]([N:5]([H:10])[H:11])([H:12])[N:8]1[O:7][H:9])([H:13])([H:14])[H:15],32.28362000003159
MR_537133_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:3]([O:6][C:5](=[O:8])[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])([C:3](=[O:6])[O:7][H:9])[C:5](=[O:8])[H:10])([H:11])([H:12])[H:13],35.838407499973925
MR_386_0,[C:1](/[C:5](=[C:4](/[C:2]([N:3]([H:7])[H:8])=[O:6])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C@:5]1([H:10])[C:4]([H:9])=[C:2]([N:3]([H:7])[H:8])[O:6]1)([H:11])([H:12])[H:13],57.12509000001944
MR_135437_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[N:5]([C:6]([N:7]([H:10])[H:11])=[O:8])[H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[O:8]/[C:6](=[N:5]/[H:9])[N:7]([H:10])[H:11],68.52174499999506
MR_429356_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([O:7][C:2]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:9])[C:3]([H:10])([H:11])[O:8]1>>[C@:1]1([C:4]([H:12])([H:13])[H:14])([O:7][C:2]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:9])[C:3]([H:10])([H:11])[O:8]1,63.332947500004906
MR_172822_0,[C:1]([C:4]([C:6]([C:3]([H:18])([H:19])[H:20])([C:5]([C:2]([H:15])([H:16])[H:17])=[O:8])[N:7]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14]>>[C:1]([C:4]([O:8]/[C:5]([C:2]([H:15])([H:16])[H:17])=[C:6](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])=[O:9])([H:12])([H:13])[H:14],49.714315000003495
MR_159136_1,[C:1](/[C:7](=[C:6](\[N:2](/[C:3]([N:5]([H:11])[H:12])=[N:8]\[H:13])[N:4]([H:9])[H:10])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C@:7](/[C:3]([N:5]([H:11])[H:12])=[N:8]\[H:13])(/[C:6](=[N:2]\[N:4]([H:9])[H:10])[H:14])[H:15])([H:16])([H:17])[H:18],72.70528749999073
MR_342271_1,[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:4](\[C:2]([H:12])([H:13])[H:14])[O:8][H:10])[C:5]([N:6]([H:9])[H:11])=[C:7]([H:18])[H:19]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:8])([C:5]([N:6]([H:10])[H:11])=[C:7]([H:18])[H:19])[H:9],42.82248249999711
